US09388189B2
(3-(4-Hydroxyphenylsulfonamido)phenyl)boronic acid
4-Methoxy-N-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzenesulfonamide (168 mg, 0.43 mmol) was dissolved in dichloromethane (4 ml). A solution of boron tribromide (1M in dichloromethane, 4.32 mL, 4.32 mmol) was added dropwise and the reaction was stirred at room temperature overnight. The mixture was diluted with dichloromethane and washed with a solution of 4% sodium bicarbonate, water, brine and dried over sodium sulphate, filtered and evaporated under reduced pressure. The product was purified by reverse phase using SP1® Purification System to give 30 mg (23% yield) of the title compound. Purity 100%.

reactant | 4-Methoxy-N-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzenesulfonamide | 0.43 mmol, 168 mg | COC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C19H24BNO5S
reactant | boron tribromide | 4.32 mmol, 1M, 4.32 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | (3-(4-Hydroxyphenylsulfonamido)phenyl)boronic acid | 30 mg, 23% yield | OC1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C=CC1)B(O)O | C12H12BNO5S
